US05965559
Using an analogous procedure to that described in Example 2, 2-amino-N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide hydrochloride salt was reacted with (E)-4-chlorostyrylsulphonyl chloride to give 2-[(E)-4-chlorostyrylsulphonamido]-N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-ethyl}acetamide as a gum (0.1 g, 16%);

reactant | 2-amino-N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide hydrochloride salt | Cl.NCC(=O)NC(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCCCC1
reactant | (E)-4-chlorostyrylsulphonyl chloride | ClC1=CC=C(/C=C/S(=O)(=O)Cl)C=C1 | C8H6Cl2O2S
product | 2-[(E)-4-chlorostyrylsulphonamido]-N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-ethyl}acetamide | 0.1 g, 16% | ClC1=CC=C(/C=C/S(=O)(=O)NCC(=O)NC(CNC(=O)C2CCN(CC2)C2=CC=NC=C2)C(=O)N2CCCCC2)C=C1 | C29H37ClN6O5S
